US04156732
2-(4-Chloro-3-sulfamoylbenzoyl)-3-methylindole
is obtained as described in Example 10 (a) from 10.0 g 4-chloro-3-sulfamoylbenzoyl chloride and 5.1 g 3-methylindole in the presence of 10.4 g aluminum chloride. Colorless crystals from isopropanol, m.p. 205° C.

reactant | 4-chloro-3-sulfamoylbenzoyl chloride | 10.0 g | ClC1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C7H5Cl2NO3S
reactant | 3-methylindole | 5.1 g | CC1=CNC2=CC=CC=C12 | C9H9N
reactant | aluminum chloride | 10.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-(4-Chloro-3-sulfamoylbenzoyl)-3-methylindole | ClC1=C(C=C(C(=O)C=2NC3=CC=CC=C3C2C)C=C1)S(N)(=O)=O | C16H13ClN2O3S
